US06511670B1
Preparation of 3-Thia-5,8-pentadecadiynoic Acid
3.85 ml of a 30% solution of sodium methoxide in methanol were added dropwise to a solution of 742 μl of thioglycolic acid in 8 ml of methanol, under an inert atmosphere. The mixture was maintained under stirring for 30 min and then a solution of 2 g of 1-chloro-2,5-dodecadiyne in 20 ml of methanol was added under an inert atmosphere. The mixture was maintained under stirring for 15 hours at room temperature and then the reaction medium was poured over 100 ml of acid water (98 ml of water+2 ml concentrated H2SO4) and then extracted 3 times with ethyl ether. The combined organic phases were washed 3 times with water and then with a saturated aqueous solution of NaCl before being dried (Na2SO4), filtered and concentrated under vacuum in a rotary evaporator. The oily residue obtained crystallized at cold temperature. 3-Thia-5,8-pentadecadiynoic acid was recrystallized from diisopropyl ether.

reactant | sodium methoxide | C[O-].[Na+]
reactant | thioglycolic acid | 742 μl | C(CS)(=O)O | C2H4O2S
reactant | 1-chloro-2,5-dodecadiyne | 2 g | ClCC#CCC#CCCCCCC | C12H17Cl
reactant | water | 100 ml | O | H2O
solvent | methanol | CO | CH4O
solvent | methanol | 8 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | 3-Thia-5,8-pentadecadiynoic Acid | C(CSCC#CCC#CCCCCCC)(=O)O | C14H20O2S
